US06476055B1
5-Methyl-5-phenyl-3-phenylamino-2-thioxothiazolidin-4-one (0.3 g) was added to a 1M methylene chloride solution of triethyloxonium tetrafluoroborate (1 ml) at room temperature with stirring. After stirring the mixture for 24 hrs hydroxylamine hydrochloride (0.1 g) and triethylamine (0.3 g) in methanol (10 ml) were added at 0° C. The reaction mixture was again stirred for 2 hrs at room temperature followed by evaporation of the solvents under reduced pressure. The residue was added to ice water and then extracted with ethyl acetate. The ethyl acetate solution was dried over anhydrous ethyl acetate and the solvent was then evaporated under reduced pressure. The residue was purified by column chromatography (ethyl acetate-n-hexane, 1/2) to yield 2-hydroxyimino-5-methyl-5-phenyl-3-phenylaminothiazolidine-4-one (0.21 g) having a melting point of 62-63° C.

reactant | 5-Methyl-5-phenyl-3-phenylamino-2-thioxothiazolidin-4-one | 0.3 g | CC1(C(N(C(S1)=S)NC1=CC=CC=C1)=O)C1=CC=CC=C1 | C16H14N2OS2
reactant | methylene chloride | 1M | C(Cl)Cl | CH2Cl2
reactant | triethyloxonium tetrafluoroborate | 1 ml | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | hydroxylamine hydrochloride | 0.1 g | Cl.NO
solvent | methanol | 10 ml | CO | CH4O
solvent | triethylamine | 0.3 g | C(C)N(CC)CC | C6H15N
product | 2-hydroxyimino-5-methyl-5-phenyl-3-phenylaminothiazolidine-4-one | 0.21 g | ON=C1SC(C(N1NC1=CC=CC=C1)=O)(C1=CC=CC=C1)C | C16H15N3O2S
